US05550149
α-(3,4-Dimethoxyphenyl)-1,3-dihydro-5-[2-(1H-imidazol-1-yl)ethoxy]-6-methoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile dihydrochloride
To a solution of 0.196 g of α-(3,4-dimethoxyphenyl)-1,3-dihydro-5-[2-(1H-imidazol-1-yl)ethoxy]-6-methoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile in 0.5 mL of methylene chloride is added 5 mL of diethyl ether and then 0.17 mL of 4.5N hydrochloric acid in ethyl alcohol. An additional 15 mL of diethyl ether is added and the solution stirred vigorously for 1 hour. The white solid is collected by filtration, washed with diethyl ether and dried. This affords 0.166 g of the desired product as a white solid.

reactant | α-(3,4-dimethoxyphenyl)-1,3-dihydro-5-[2-(1H-imidazol-1-yl)ethoxy]-6-methoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile | 0.196 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2C1)OCCN1C=NC=C1)OC)SC1=CC=C(C=C1)C | C36H42N4O4S
reactant | diethyl ether | 5 mL | C(C)OCC | C4H10O
reactant | hydrochloric acid | 4.5N, 0.17 mL | Cl | ClH
reactant | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl alcohol | C(C)O | C2H6O
product | α-(3,4-Dimethoxyphenyl)-1,3-dihydro-5-[2-(1H-imidazol-1-yl)ethoxy]-6-methoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile dihydrochloride | Cl.Cl.COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2C1)OCCN1C=NC=C1)OC)SC1=CC=C(C=C1)C | InChI=1S/C36H42N4O4S.2ClH/c1-27-8-11-31(12-9-27)45-36(25-37,30-10-13-32(41-2)34(22-30)43-4)14-6-5-7-16-40-23-28-20-33(42-3)35(21-29(28)24-40)44-19-18-39-17-15-38-26-39;;/h8-13,15,17,20-22,26H,5-7,14,16,18-19,23-24H2,1-4H3;2*1H
